US08957070B2
7-{[(4-Methylphenyl)sulfonyl]amino}-1H-indole-2-carboxamide
To a mixture of 7-{[(4-methylphenyl)sulfonyl]amino}-1H-indole-2-carboxylic acid (105 mg), 1H-1,2,3-benzotriazol-1-ol-ammonia complex (58 mg) and N,N-dimethylformamide (5 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (80 mg) at 4° C., and the mixture was stirred at room temperature for 5 hr. The reaction mixture was diluted with ethyl acetate, washed with aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (69 mg, yield 66%) as pale-yellow crystals. melting point 312-313° C.

reactant | 7-{[(4-methylphenyl)sulfonyl]amino}-1H-indole-2-carboxylic acid | 105 mg | CC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C16H14N2O4S
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 80 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-{[(4-Methylphenyl)sulfonyl]amino}-1H-indole-2-carboxamide | 69 mg, yield 66% | CC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)N | C16H15N3O3S
